### PR TITLE
feat: `Dyadic` is an ordered ring

### PR DESCRIPTION
**Pull request by plp127**
Prove `Dyadic` is a linearly ordered ring, providing instances for `LinearOrder`, `CommRing`, and `IsStrictOrderedRing`.

---

[From CGT](https://github.com/vihdzp/combinatorial-games/blob/99a469a2e02fd9fab9a717efe27f7fc84b880bbb/CombinatorialGames/Mathlib/Dyadic.lean).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Dyadic/OrderedRing.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+
+We provide instances of `LinearOrder Dyadic`, `CommRing Dyadic`, and `IsOrderedRing Dyadic`.
+-/
+
+public section
+namespace Dyadic
+
+section Lemmas
+
+-- Some of these lemmas are high priority then the generic ring lemmas so that the `simpNF` is happy
```
Comment (ADedecker) [inline Mathlib/Data/Dyadic/OrderedRing.lean]: Then I don't get why they are `@[simp]` at all? I'm sure I'm missing something though, so I'd love an explanation of how I am wrong :sweat_smile:

Comment (plp127) [reply Mathlib/Data/Dyadic/OrderedRing.lean]: They are used by `simp` in the proofs in `instance : CommRing Dyadic`, and similar lemmas in core are marked `@[simp]`.

Comment (ADedecker) [reply Mathlib/Data/Dyadic/OrderedRing.lean]: Then I would prefer if you added them manually when needed; there's no point tagging a lemma `@[simp]` for a single proof. I think these would make sense at `@[simp]` lemmas in an earlier library (where the general lemma is not available), but not in Mathlib imo.

File: Mathlib/Data/Dyadic/ToReal.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+This file provides general API for Dyadic rationals that are used in Mathlib but not available in
+core.
+-/
+
+namespace Dyadic
+
+@[expose] public section Real
+
+/-- Interpret a dyadic rational as a real number. -/
+def toReal (d : Dyadic) : ℝ := d.toRat
```
Comment (vihdzp) [inline Mathlib/Data/Dyadic/ToReal.lean:24]: I don't think we need this? This is just the trivial composition of maps `Dyadic → ℚ` and `ℚ → ℝ`.

File: Mathlib/Data/Dyadic/OrderedRing.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+  mul_lt_mul_of_pos_left := by simp +contextual [← Dyadic.toRat_lt_toRat_iff, Rat.mul_lt_mul_left]
+  mul_lt_mul_of_pos_right := by simp +contextual [← Dyadic.toRat_lt_toRat_iff, Rat.mul_lt_mul_right]
+  zero_le_one := by decide
+  exists_pair_ne := ⟨0, 1, by decide⟩
+
+end Instances
+
+/-- One unit on the dyadic grid with precision `prec`. -/
+@[expose]
+def step (prec : Int) : Dyadic := .ofOdd 1 prec (by decide)
```
Comment (vihdzp) [inline Mathlib/Data/Dyadic/OrderedRing.lean:112]: What's this, and what is it doing here?

File: Mathlib/Data/Dyadic/OrderedRing.lean [hunk 4]
```diff
@@ -0,0 +1,117 @@
+/-
+Copyright (c) 2026 Aaron Liu. All rights reserved.
```
Comment (vihdzp) [inline Mathlib/Data/Dyadic/OrderedRing.lean:2]: Who's the author of this file? It seems like you're taking David's code and combining it with mine?

Comment (plp127) [reply Mathlib/Data/Dyadic/OrderedRing.lean:2]: Originally I just had the `OrderedRing` file, but #42850 was merged in the meantime and I had to make adaptations, so I split off `step` and `ofIntWithPrec_one` into the `OrderedRing` file and put everything else into a new `ToReal` file.

Comment (plp127) [reply Mathlib/Data/Dyadic/OrderedRing.lean:2]: For the diff prior to these adaptations see [`933d5a2`](https://github.com/leanprover-community/mathlib4/pull/43038/changes/BASE..933d5a26b326f5438e89e895a7cd7106e615530f)

**Comment by vihdzp** [comment]
I think this material should be moved first, out of the `Data` folder, and the material that's used for the tactic should also be moved to that file.

**Comment by plp127** [comment]
> I think this material should be moved first, out of the `Data` folder, and the material that's used for the tactic should also be moved to that file.

Can you clarify which material you think should be moved where? And which file is the tactic material going into?

**Comment by vihdzp** [comment]
Hmm. I guess it wouldn't make sense to make an ordered ring file where you don't yet prove that dyadic numbers are an ordered ring.

The `toReal` and `step` stuff should be moved to the file where the `inclusion` tactic is defined. That can be its own PR, I think. Everything else can remain as is.

File: Mathlib/Data/Dyadic/OrderedRing.lean [hunk 5]
```diff
@@ -0,0 +1,117 @@
...
+@[norm_cast]
+protected theorem intCast_add (a b : ℤ) : (Int.cast (a + b) : Dyadic) = a + b := by
+  simp [← Dyadic.toRat_inj]
+
+@[simp, norm_cast]
+theorem intCast_natCast (n : ℕ) : (Int.cast n : Dyadic) = n := rfl
+
+@[norm_cast]
+protected theorem intCast_neg (a : Int) : ((-a : Int) : Dyadic) = -(a : Dyadic) := by
+  simp [← Dyadic.toRat_inj]
```
Comment (eric-wieser) [inline Mathlib/Data/Dyadic/OrderedRing.lean:43]: Aren't these true in all rings? I think therefore it would make sense for them to be private.

File: Mathlib/Data/Dyadic/OrderedRing.lean [hunk 6]
```diff
@@ -0,0 +1,117 @@
...
+
+instance : IsStrictOrderedRing Dyadic where
+  add_le_add_left := by simp [← Dyadic.toRat_le_toRat_iff, Rat.add_le_add_right]
+  add_le_add_right := by simp [← Dyadic.toRat_le_toRat_iff, Rat.add_le_add_left]
+  le_of_add_le_add_left := by simp [← Dyadic.toRat_le_toRat_iff, Rat.add_le_add_left]
+  le_of_add_le_add_right := by simp [← Dyadic.toRat_le_toRat_iff, Rat.add_le_add_right]
+  mul_lt_mul_of_pos_left := by simp +contextual [← Dyadic.toRat_lt_toRat_iff, Rat.mul_lt_mul_left]
+  mul_lt_mul_of_pos_right := by simp +contextual [← Dyadic.toRat_lt_toRat_iff, Rat.mul_lt_mul_right]
+  zero_le_one := by decide
+  exists_pair_ne := ⟨0, 1, by decide⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Dyadic/OrderedRing.lean:106]: This could perhaps be a standalone `Nontrivial` instance

File: Mathlib/Data/Dyadic/OrderedRing.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Dyadic/OrderedRing.lean:112]: This was moved from the other file.

Comment (eric-wieser) [reply Mathlib/Data/Dyadic/OrderedRing.lean:112]: @plp127, for simplicity can you create a PR that moves `toReal` and does nothing else, to be merged first?

File: Mathlib/Data/Dyadic/OrderedRing.lean (hunk 5 above)
Comment (plp127) [reply Mathlib/Data/Dyadic/OrderedRing.lean:43]: I just copied what's done for `Rat`
